US05399725
C. 2-(2-Bromophenyl)-1,3-dioxolane
A 12 L 3-necked flask fitted with an overhead stirrer was charged with 2-bromobenzaldehyde (800 g, 4.324 moles), ethylene glycol (402.6 g, 6.485 moles), p-toluenesulfonic acid. H2O (3.95 g, 0.021 moles) and toluene (3.785 kg, 41.074 moles).

reactant | 2-bromobenzaldehyde | 4.324 moles, 800 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | ethylene glycol | 6.485 moles, 402.6 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2O | 0.021 moles, 3.95 g | O | H2O
reactant | toluene | 41.074 moles, 3.785 kg | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Bromophenyl)-1,3-dioxolane | BrC1=C(C=CC=C1)C1OCCO1 | C9H9BrO2
